US04122183
2-(N-Ethyl-2-ethylbutyramido)-4-methyloxazole
Sodium hydride (2.8 g. of a 50% dispersion in oil, 0.058 mol) was added in small portions to a stirred solution of 2-(2-ethylbutyramido)-4-methyloxazole (8.0 g., 0.041 mol) in dimethylformamide (100 ml.) at -5° to 0° C. The mixture was stirred for 2 hours at room temperature and then ethyl iodide (4.7 ml. 0.058 mol) was added. The mixture was stirred for a further 2 hours at room temperature and then poured onto ice-water (250 ml.) and extracted with ether (3 × 100 ml.). The extract was washed with dilute hydrochloric acid, then with sodium chloride solution, dried over sodium sulphate and evaporated. The residue was distilled under vacuum to give the product 4.7 g. (51%) b.p. 71°-72° C/0.3 mm.

reactant | Sodium hydride | [H-].[Na+]
reactant | 2-(2-ethylbutyramido)-4-methyloxazole | 0.041 mol, 8.0 g | C(C)C(C(=O)NC=1OC=C(N1)C)CC | C10H16N2O2
reactant | ethyl iodide | 0.058 mol, 4.7 ml | C(C)I | C2H5I
solvent | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
product | 2-(N-Ethyl-2-ethylbutyramido)-4-methyloxazole | 4.7 g | C(C)N(C(C(CC)CC)=O)C=1OC=C(N1)C | C12H20N2O2
